US05385880
Synthesis of 2-(4,6-dimethoxylpyrimidin-2-ylthio)nicotinic acid (Compound No. 52)
4.0 g (0.026 mol) of 2-mercaptonicotinic acid, 5.7 g (0.026 mol) of 4,6-dimethoxyl-2-methylsulfonylpyrimidine and 7.2 g (0.052 mol) of potassium carbonate were weighed, and 70 ml of dimethylformamide was added thereto and the mixture was stirred at 80° C. for 2 hours. The resultant mixture was poured into water, and was washed with 100 ml of ethyl acetate. The aqueous layer was then acidified with 10% HCl aqueous solution to precipitate a crystal. The crystal thus precipitated was filtrated out, and was washed with water and was dried. The crystal was then recrystallized with methanol to obtain 5.3 g of a light-yellowish crystal of the aimed product.

reactant | 2-mercaptonicotinic acid | 0.026 mol, 4.0 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | 4,6-dimethoxyl-2-methylsulfonylpyrimidine | 0.026 mol, 5.7 g | O(C)C1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | potassium carbonate | 0.052 mol, 7.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(4,6-dimethoxylpyrimidin-2-ylthio)nicotinic acid | 5.3 g, Yield: 70.1% | O(C)C1=NC(=NC(=C1)OC)SC1=C(C(=O)O)C=CC=N1 | C12H11N3O4S
